Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
RLQ pain
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ hx CAD s/p DES to LAD ___ who presented to the ED with 
acute onset of abdominal pain. Pt states that pain started in 
evening on ___ described as dull/sharp pain in RLQ with 
occasional radiation to umbilical region.  He is here visiting 
his daughter who is a ___ student.  He lives in ___.  He 
also had nausea and vomiting. He has not eaten since yesterday 
evening.  

In the ED, vitals were T98.7 ___ BP 160/76 RR15 O2 sat 96%RA.  
Labs were notable for WBC 12.9, Cr 1.1, lactate 2.4.  troponins 
neg x 2.  Urinalysis showed RBCs.  CT abdomen showed a right 3mm 
obstructing stone at UVJ resulting in mild right hydro and 
forniceal rupture w/perinephric stranding.  Urology was 
consulted who recommended conservative management with IVF, pain 
meds and tamsulosin.  Pt was given 500cc fluid and rpt lactate 
2.9. He was admitted to medicine for further management.

On the floor, pt reports his pain is now a ___ much improved 
from ___.  He has had no recurrent nausea and would like to 
eat.

ROS:  
(+) per HPI  
(-) fever, chills, night sweats, headache, vision changes, 
rhinorrhea, congestion, sore throat, cough, shortness of breath, 
chest pain, nausea, vomiting, diarrhea, constipation, BRBPR, 
melena, hematochezia, dysuria, hematuria.  
 
Past Medical History:
CAD S/p DES to LAD ___ (in ___ 
HTN
HLD

 
Social History:
___
Family History:
Mom, Brother with DM. No family hx CKD or nephrolithiasis
 
Physical Exam:
ADMISSION EXAM:
Vitals: T98.6 BP 148/76 P94 RR20 O2 sat 96%RA
Pain Scale:  ___
General: Patient appears comfortable. Alert, oriented and in no
acute distress  
HEENT: Sclera anicteric, MMM, oropharynx clear  
Neck: supple, JVP low, no LAD appreciated  
Lungs: Clear to auscultation bilaterally, moving air well and
symmetrically, no wheezes, rales or rhonchi appreciated  
CV: Regular rate and rhythm, S1 and S2 clear and of good 
quality,
___ SEM RSB, no rubs or gallops appreciated  
Abdomen: soft, non-tender, non-distended, normoactive bowel
sounds throughout, no rebound or guarding  
Back: No CVA tenderness
Ext: Warm, well perfused, full distal pulses, no clubbing,
cyanosis or edema  
Neuro: CN2-12 grossly in tact, motor and sensory function 
grossly
intact in bilateral UE and ___, symmetric  

DISCHARGE EXAM:
VSS
Vitals: T98.6 BP 148/76 P94 RR20 O2 sat 96%RA
Pain Scale:  ___
General: Patient appears comfortable. Alert, oriented, NAD  
HEENT: Sclera anicteric, MMM, oropharynx clear  
Neck: supple, JVP flat, no LAD 
Lungs: CTAB, moving air well and symmetrically, no wheezes, 
rales or rhonchi appreciated  
CV: Regular rate and rhythm, S1 and S2 clear and of good 
quality,
___ SEM RSB, no rubs or gallops appreciated  
Abdomen: soft, non-tender, non-distended, normoactive bowel 
sounds throughout, no rebound or guarding  
Back: No CVA tenderness
Ext: Warm, well perfused, full distal pulses, no clubbing, 
cyanosis or edema  
Neuro: CN2-12 grossly in tact, motor and sensory function 
grossly intact in bilateral UE and ___, symmetric  
 
Pertinent Results:
ADMISSION LABS:

___ 11:00PM BLOOD WBC-12.9* RBC-4.96 Hgb-15.0 Hct-45.5 
MCV-92 MCH-30.2 MCHC-33.0 RDW-12.4 RDWSD-41.0 Plt ___
___ 11:00PM BLOOD Neuts-84.4* Lymphs-9.6* Monos-5.0 
Eos-0.3* Baso-0.4 Im ___ AbsNeut-10.84* AbsLymp-1.24 
AbsMono-0.64 AbsEos-0.04 AbsBaso-0.05
___ 11:00PM BLOOD Glucose-125* UreaN-24* Creat-1.1 Na-143 
K-4.0 Cl-105 HCO3-23 AnGap-19
___ 05:00AM BLOOD Glucose-134* UreaN-25* Creat-1.3* Na-142 
K-4.7 Cl-107 HCO3-24 AnGap-16
___ 11:00PM BLOOD ALT-49* AST-33 AlkPhos-83 TotBili-0.3
___ 11:00PM BLOOD cTropnT-<0.01
___ 05:00AM BLOOD cTropnT-<0.01
___ 09:10AM BLOOD cTropnT-<0.01
___ 05:07AM BLOOD Lactate-2.9*

IMAGING:
CT abdomen/pelvis ___
IMPRESSION:  
1.  There is a 3 mm obstructing stone in the distal right ureter 
proximal to the ureterovesical junction resulting in mild right 
hydroureteronephrosis. More importantly, there is evidence of 
forniceal rupture with moderate perinephric stranding and a 
small amount of fluid tracking around the kidney. 
  
2.  4 mm nonobstructing stone in the lower pole of the left 
kidney. 

EKG: NSR, biphasic TW laterally, QTc 432

DISCHARGE LABS:
___ 07:10AM BLOOD WBC-7.4 RBC-4.25* Hgb-13.0* Hct-39.6* 
MCV-93 MCH-30.6 MCHC-32.8 RDW-12.5 RDWSD-43.2 Plt ___
___ 07:10AM BLOOD Glucose-97 UreaN-19 Creat-0.8 Na-141 
K-4.4 Cl-107 HCO3-27 AnGap-11
___ 07:10AM BLOOD Calcium-8.7 Phos-2.7 Mg-2.0
___ 07:35AM BLOOD Lactate-1.9
___ 11:00PM URINE Blood-LG Nitrite-NEG Protein-30 
Glucose-NEG Ketone-NEG Bilirub-NEG Urobiln-2* pH-5.5 Leuks-NEG
___ 11:00PM URINE RBC-171* WBC-2 Bacteri-FEW Yeast-NONE 
Epi-<___ hx CAD s/p DES to LAD (___) on Plavix presenting with 
abdominal pain found to have right obstructing stone.  

# Obstructive nephropathy: 3mm stone on right, with mild 
hydronephrosis on imaging. No e/o pyelonephritis.  Pt was given 
toradol in ED x 1.  He was continued on IVF and oxycodone as 
needed for pain. No further NSAIDs were given with his recent hx 
of CAD and ___ on presentation.  He was started on tamsulosin to 
potentially help facilitate passage of the stone. He was 
discharged home to f/u with his PCP in ___.

# Lactic acidosis: likelye ___ hypovolemia given poor PO intake, 
nausea/vomiting. He was given IVF overnight and lactate 
normalized to < 2 prior to discharge.
 
#  CAD: s/p recent DES to LAD.  Continued 
clopidogrel/aspirin/metoprolol. Losartan was held given ___ on 
admission. On discharge losartan was discontinued as pt reported 
he would be starting his new Rx for Lisinopril.

# HTN: continue metop, hold losartan for now given ___  

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Losartan Potassium 50 mg PO DAILY 
2. Metoprolol Tartrate 25 mg PO BID 
3. Aspirin 325 mg PO DAILY 
4. Clopidogrel 75 mg PO DAILY 
5. Atorvastatin 80 mg PO DAILY 

 
Discharge Medications:
1. Aspirin 325 mg PO DAILY 
2. Atorvastatin 80 mg PO DAILY 
3. Clopidogrel 75 mg PO DAILY 
4. Metoprolol Tartrate 25 mg PO BID 
5. OxycoDONE (Immediate Release)  ___ mg PO Q6H:PRN pain 
RX *oxycodone 5 mg 1 tablet(s) by mouth every 6 hours Disp #*10 
Tablet Refills:*0
6. Tamsulosin 0.4 mg PO QHS 
RX *tamsulosin [Flomax] 0.4 mg 1 capsule(s) by mouth at bedtime 
Disp #*7 Capsule Refills:*0

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Nephrolithiasis

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Mr. ___, you were admitted to ___ after coming to the 
Emergency department with abdominal pain. You were found to have 
a small kidney stone that should pass on its own.  You will be 
discharged home with pain medications and Flomax to help 
facilitate passage of the stone to take for the next 7 days. 
Please be sure to follow-up with your primary care provider when 
you return to ___. It was a pleasure caring for you and we 
wish you a speedy recovery!
 
Followup Instructions:
___